US07576063B2
3-Benzyloxy-1,5-diisopropyl-1H-pyrazole
To a suspension of 4-methyl-3-oxothiopentanoic acid O-benzyl ester (0.84 g) and isopropylhydrazine hydrochloride (0.52 g) in acetonitrile (4 mL) was added triethylamine (1.4 g), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The solvent of the organic layer was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane/dichloromethane=1/1-2/3) to give the title compound (0.44 g).

reactant | 4-methyl-3-oxothiopentanoic acid O-benzyl ester | 0.84 g | C(C1=CC=CC=C1)OC(CC(C(C)C)=O)=S | C13H16O2S
reactant | isopropylhydrazine hydrochloride | 0.52 g | Cl.C(C)(C)NN
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 3-Benzyloxy-1,5-diisopropyl-1H-pyrazole | 0.44 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(C)C)C(C)C | C16H22N2O
